US05344843
A solution of 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester (0.97 g) in dimethylformamide (12 mL) was treated with 55% sodium hydride (0.22 g), stirred for 15 minutes and then 1,2-bis-(phenylmethoxy)-3-(6-bromohexyl)benzene (2.27 g) was added and rinsed in with dimethylformamide (3 mL). The mixture was stirred overnight at room temperature and worked up as in Example 20. The residual oil was purified by HPLC (ethyl acetate-hexane; 1:9) and crystallized from diethyl ether-hexane to provide 1.7 g of 4-[6-[2,3-bis-(phenylmethoxy)phenyl]hexyloxy]-alpha-oxobenzeneacetic acid ethyl ester, mp 39°-42° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester | 0.97 g | C(C)OC(C(C1=CC=C(C=C1)O)=O)=O | C10H10O4
reactant | sodium hydride | 0.22 g | [H-].[Na+]
reactant | 1,2-bis-(phenylmethoxy)-3-(6-bromohexyl)benzene | 2.27 g | C1(=CC=CC=C1)COC1=C(C(=CC=C1)CCCCCCBr)OCC1=CC=CC=C1 | C26H29BrO2
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 4-[6-[2,3-bis-(phenylmethoxy)phenyl]hexyloxy]-alpha-oxobenzeneacetic acid ethyl ester | 1.7 g | C(C)OC(C(C1=CC=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)=O | C36H38O6
